US05414001
3-Chlorobenzyl bromide
A solution of 260 ul of 3-chlorobenzyl alcohol dissolved in 2.5 ml of dry tetrahydrofuran is cooled to 0° C. and 120 ul of PBr3 added. The reaction is stirred for 3 hours and extracted with ether. The organic layer is washed with saturated sodium bicarbonate and evaporated to give the desired product.

reactant | 3-chlorobenzyl alcohol | 260 ul | ClC=1C=C(CO)C=CC1 | C7H7ClO
reactant | PBr3 | 120 ul | P(Br)(Br)Br | Br3P
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | 3-Chlorobenzyl bromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
